US07074800B1
Using a procedure analogous to that described for Example 9, 4-chloro-6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)quinazoline (0.13 g, 0.4 mmol), (prepared as described for the starting material in Example 10), was reacted with 2,4-dimethyl-7-hydroxyquinoline (87 mg, 0.5 mmol), (Chem. Berichte, 1903, 36, 4016), to give 4-(2,4-dimethylquinolin-7-yloxy)-6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)quinazoline (61 mg, 33%).

reactant | 4-chloro-6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)quinazoline | 0.4 mmol, 0.13 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C16H20ClN3O2
reactant | 2,4-dimethyl-7-hydroxyquinoline | 0.5 mmol, 87 mg | CC1=NC2=CC(=CC=C2C(=C1)C)O | C11H11NO
product | 4-(2,4-dimethylquinolin-7-yloxy)-6-methoxy-7-((1-methylpiperidin-4-yl)methoxy)quinazoline | 61 mg, 33% | CC1=NC2=CC(=CC=C2C(=C1)C)OC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C27H30N4O3
